US06214817B1
To a solution of diethyl 4-cyclohexyl-2,6-bis(dimethoxymethyl)-1,4-dihydropyridine-3,5-dicarboxylate (30.7 g, 67.54 mmol) in acetone (450 mL) was added a solution of ceric ammonium nitrate (75.05 g, 135.08 mmol) in water (125 mL) fairly rapidly at room temperature. After stirring for 10 minutes, the resulting solution was concentrated to remove the acetone. Water (300 mL) was added and the mixture was extracted with CH2Cl2 (3×500 mL). The organic phase was washed with brine (600 mL), dried (MgSO4), and evaporated to afford 29.23 g of diethyl 4-cyclohexyl-2,6-bis(dimethoxymethyl)pyridine-3,5-dicarboxylate as an oil. The oil was chromatographed on silica gel using hexane/ethyl acetate mixtures to give single spot material: 1H NMR (CDCl3) δ 5.37 (s, 2H) 4.32 (q, J=7.2 Hz, 4H) 3.33 (s, 12H) 2.4-2.6 (m, 1H) 1.0-1.8 (m, 16H); 13C NMR (CDCl3) δ 167.79, 153.25, 151.44, 128.68, 104.01, 61.51, 54.41, 52.18, 44.41, 31.10, 27.19, 25.85, 14.04; MS (HR-ESI) m/z 460.2534 [M+Li]+ (460.2523 calcd for C23H35NO8Li).

reactant | diethyl 4-cyclohexyl-2,6-bis(dimethoxymethyl)-1,4-dihydropyridine-3,5-dicarboxylate | 67.54 mmol, 30.7 g | C1(CCCCC1)C1C(=C(NC(=C1C(=O)OCC)C(OC)OC)C(OC)OC)C(=O)OCC | C23H37NO8
solvent | acetone | 450 mL | CC(=O)C | C3H6O
solvent | water | 125 mL | O | H2O
product | diethyl 4-cyclohexyl-2,6-bis(dimethoxymethyl)pyridine-3,5-dicarboxylate | 29.23 g | C1(CCCCC1)C1=C(C(=NC(=C1C(=O)OCC)C(OC)OC)C(OC)OC)C(=O)OCC | C23H35NO8
